US08044068B2
A mixture of t-butyl 4-(2-chloroquinazolin-4-yl)piperazine-1-carboxylate (30 g) synthesized in the same manner as in Example 1, (S)-1-benzyl-3-aminopyrrolidine (15 g), triethylamine (8.7 g), and isopropyl alcohol (43 mL) was heated to reflux for 40 h. The reaction mixture was concentrated under reduced pressure, then water was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate, concentrated, and then purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=4:1) to obtain t-butyl 4-(2-((S)-1-benzylpyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate (26 g).

reactant | t-butyl 4-(2-chloroquinazolin-4-yl)piperazine-1-carboxylate | 30 g | ClC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H21ClN4O2
reactant | (S)-1-benzyl-3-aminopyrrolidine | 15 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
reactant | triethylamine | 8.7 g | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 43 mL | C(C)(C)O | C3H8O
product | t-butyl 4-(2-((S)-1-benzylpyrrolidin-3-ylamino)quinazolin-4-yl)piperazine-1-carboxylate | 26 g | C(C1=CC=CC=C1)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C28H36N6O2
